US07384961B2
129 ml thionyl chloride were added dropwise to 74.9 g 2-dimethylaminomethyl-1-pyridin-3-yl-cyclohexanol hydrochloride with vigorous evolution of gas, and the mixture was heated at 60 to 65° C. for 2.5 hours, while stirring, and was then concentrated under a water pump. After cooling, first 200 ml water and then 100 ml sodium hydroxide solution (32 per cent strength by weight) were added, the mixture was then extracted twice with 250 ml of a mixture of equal volumes of tetrahydrofuran and ethyl acetate each time, the combined extracts were dried over magnesium sulfate and filtered and the filtrate was concentrated. The crude product obtained (48.9 g) was dissolved in 350 ml absolute ethanol, and 57.4 ml chlorotrimethylsilane and 8.1 ml water were added in succession and the mixture was stirred in an ice-bath for 12 hours. The solid which had precipitated out was filtered off with suction, washed with a little absolute ethanol and dried at 90° C. in vacuo (approx. 50 mbar) for two hours. 34.7 g of crude dimethyl-(2-pyridin-3-yl-cyclohex-1-enylmethyl)amine dihydrochloride were obtained. For final purification, 168 g of crude dimethyl-(2-pyridin-3-yl-cyclohex- 1-enylmethyl)amine dihydrochloride prepared according to the above instructions were dissolved in 650 ml of boiling absolute ethanol and crystallized again by cooling in an ice-bath, while stirring. After the crystals had been stirred overnight at room temperature, they were filtered off with suction, washed with a little absolute ethanol and dried at 120° C. in vacuo (approx. 50 mbar) for 4.5 hours. 121 g dimethyl-(2-pyridin-3-yl-cyclohex- 1-enylmethyl)amine dihydrochloride with a melting point of 215 to 218° C. were obtained.

reactant | thionyl chloride | 129 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-dimethylaminomethyl-1-pyridin-3-yl-cyclohexanol hydrochloride | 74.9 g | Cl.CN(C)CC1C(CCCC1)(O)C=1C=NC=CC1
reactant | chlorotrimethylsilane | 57.4 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | water | 8.1 ml | O | H2O
solvent | ethanol | 350 ml | C(C)O | C2H6O
product | dimethyl-(2-pyridin-3-yl-cyclohex-1-enylmethyl)amine dihydrochloride | 34.7 g | Cl.Cl.CN(CC1=C(CCCC1)C=1C=NC=CC1)C | InChI=1S/C14H20N2.2ClH/c1-16(2)11-13-6-3-4-8-14(13)12-7-5-9-15-10-12;;/h5,7,9-10H,3-4,6,8,11H2,1-2H3;2*1H
